US06528504B2
(S)-3-(4-Nitrobenzoyloxy)-1-[3-(4-methoxyphenyl)propyl]pyrrolidine (507 mg, 1.32 mmol) was dissolved in methanol (10 ml). 1 M-NaOH (1.5 ml) was added dropwise in the obtained mixture. After stirring at room temperature for 1 hour, the solvent was evaporated under reduced pressure. The residue was distributed in water and ethyl acetate. The organic layer was dried, and the solvent was evaporated under reduced pressure to obtain (S)-3-hydroxy-1-[3-(4-methoxyphenyl)propyl] pyrrolidine in the form of a light yellow oil (310 mg, 100%).

reactant | (S)-3-(4-Nitrobenzoyloxy)-1-[3-(4-methoxyphenyl)propyl]pyrrolidine | 1.32 mmol, 507 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2CN(CC2)CCCC2=CC=C(C=C2)OC)C=C1 | C21H24N2O5
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (S)-3-hydroxy-1-[3-(4-methoxyphenyl)propyl] pyrrolidine | O[C@@H]1CN(CC1)CCCC1=CC=C(C=C1)OC | C14H21NO2
